US05631369
Preparation of 4-(2-piperidinoethoxy)benzoic acid hydrochloride
To a 125 mL 3 neck flask with mechanical stirring, condenser, and a heating apparatus consisting of an RTD probe in the flask hooked via a temperature controller to a heating mantle, the following were added: 7.61 g methyl 4-hydroxybenzoate, 11.05 g β-chloroethylpiperidine hydrochloride, 16.59 g powdered potassium carbonate, and 60 mL amyl acetate. The mixture was heated overnight under nitrogen in an oil bath to 125° C., and was allowed to proceed until HPLC indicated complete consumption of the methyl 4-hydroxybenzoate. The mixture was cooled to ambient temperature and 40 mL deionized water was added to dissolve the solids. The aqueous layer was separated and discarded. The water wash was repeated. 25 mL of 8N hydrochloric acid were added to extract intermediate. The layers were separated and the acid layer returned to the reaction flask. The acid solution was heated to 95° C. for about 24 hours as a "stress" test; (after 6 hours 1% of the uncleaved ester remained.) The mixture was cooled to 40° C. and 25 mL acetone added. The mixture was cooled to 0° C.-5° C. for 1 hour. The mixture was filtered and the cakes rinsed with approx. 25 mL acetone and dried. Yield=12.0 g (84.1% of theoretical).

reactant | methyl 4-hydroxybenzoate | 7.61 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | β-chloroethylpiperidine hydrochloride | 11.05 g | Cl.ClCCN1CCCCC1
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | amyl acetate | 60 mL | C(C)(=O)OCCCCC | C7H14O2
product | 4-(2-piperidinoethoxy)benzoic acid hydrochloride | Cl.N1(CCCCC1)CCOC1=CC=C(C(=O)O)C=C1 | InChI=1S/C14H19NO3.ClH/c16-14(17)12-4-6-13(7-5-12)18-11-10-15-8-2-1-3-9-15;/h4-7H,1-3,8-11H2,(H,16,17);1H
